US06982348B2
To a solution of (4RS,5SR)-5-(4-fluorophenyl)-4-((4-(methyloxy)phenyl)methyl)-1,3-oxazolidin-2-one (12.8 g, 42.5 mmol) in ethanol (200 ml) was added 8N aqueous sodium hydroxide solution (26.6 ml, 210 mmol) and the mixture was heated under reflux for 4 hrs. The reaction solution was concentrated, diluted with water (200 ml) and extracted with ethyl acetate (200 ml×2). The extract was washed with saturated brine, dried over anhydrous magnesium sulfate and evaporated under reduced pressure. The residue was recrystallized from ethyl acetate-hexane to give (1RS,2SR)-2-amino-1-(4-fluorophenyl)-3-(4-(methyloxy)phenyl)-1-propanol (10.08 g, 86%).

reactant | (4RS,5SR)-5-(4-fluorophenyl)-4-((4-(methyloxy)phenyl)methyl)-1,3-oxazolidin-2-one | 42.5 mmol, 12.8 g | FC1=CC=C(C=C1)C1C(NC(O1)=O)CC1=CC=C(C=C1)OC | C17H16FNO3
reactant | sodium hydroxide | 210 mmol, 8N, 26.6 ml | [OH-].[Na+]
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | (1RS,2SR)-2-amino-1-(4-fluorophenyl)-3-(4-(methyloxy)phenyl)-1-propanol | 10.08 g, 86% | NC(C(O)C1=CC=C(C=C1)F)CC1=CC=C(C=C1)OC | C16H18FNO2
